US07625901B2
Step A. Methyl 2-amino-2-ethylbutanoate hydrochloride
A solution of 2-amino-2-ethylbutanoic acid (3.00 g, 22.9 mmol) in MeOH (200 mL) was saturated with HCl (g). The resulting mixture was heated at reflux for 24 h, during which time it was allowed to cool to ambient temperature and was again saturated with HCl (g) twice. After 24 h at reflux, the cooled mixture was concentrated in vacuo to provide the title compound. MS: m/z=146 (M+1).

reactant | 2-amino-2-ethylbutanoic acid | 22.9 mmol, 3.00 g | NC(C(=O)O)(CC)CC | C6H13NO2
reactant | HCl | Cl | ClH
reactant | MeOH | 200 mL | CO | CH4O
product | Methyl 2-amino-2-ethylbutanoate hydrochloride | Cl.NC(C(=O)OC)(CC)CC | InChI=1S/C7H15NO2.ClH/c1-4-7(8,5-2)6(9)10-3;/h4-5,8H2,1-3H3;1H
